US09428528B2
Step 1 Preparation of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxy-methyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone
To a stirred solution of 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone (2.0 g, 4.843 mmol) in toluene (40 mL), ethanol (10 mL), water (10 mL) and (5-Bromo-pyridin-2-yl)-methanol (0.91 g, 4.843 mmol) is added Na2CO3 (1.54 g, 14.528 mmol) at room temperature. Resulting reaction mixture is degassed with nitrogen for 30 minutes then Pd(PPh3)4 (0.559 g, 0.484 mmol) is added. The reaction mixture is heated to 90° C. for 6 hours. Solvent is evaporated in vacuo then diluted with water and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by combi-flash chromatography using 80% ethyl acetate in hexane as an eluent to afford the title compound (0.67 g): 1H-NMR (400 MHz, CDCl3) δ: 1.53 (s, 3H), 1.60 (S, 3H), 4.54-4.58 (m, 0.5H), 4.60 (d, J=5.84 Hz, 2H), 4.66-4.72 (m, 1H), 4.81-4.84 (m, 0.5H), 4.90-4.94 (m, 1H), 5.26 (d, J=3.72 Hz, 1H), 5.48 (t, J=5.8 Hz, 1H), 6.64 (t, J=52.4 Hz, 1H), 7.55-7.64 (m, 3H), 7.78 (d, J=8.2 Hz, 2H), 8.09-8.12 (dd, J=2.32 Hz, J=8.16 Hz, 1H), 8.81 (d, 2.04 Hz, 1H). LC-MS (m/z): [M+H]=395.0.

reactant | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-2,2-dimethyl-5-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-oxazolidin-3-yl}-ethanone | 4.843 mmol, 2.0 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)(C)C)F | C20H27BF3NO4
reactant | (5-Bromo-pyridin-2-yl)-methanol | 4.843 mmol, 0.91 g | BrC=1C=CC(=NC1)CO | C6H6BrNO
reactant | Na2CO3 | 14.528 mmol, 1.54 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.484 mmol, 0.559 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2,2-Difluoro-1-{(4S,5R)-4-fluoromethyl-5-[4-(6-hydroxy-methyl-pyridin-3-yl)-phenyl]-2,2-dimethyl-oxazolidin-3-yl}-ethanone | 0.67 g | FC(C(=O)N1C(O[C@@H]([C@H]1CF)C1=CC=C(C=C1)C=1C(=NC(=CC1)O)C)(C)C)F | C20H21F3N2O3
